US09422279B2
To a solution of (4-phenyl-1,2,5,6-tetrahydropyridin-3-yl)methanol hydrochloride (110 mg, 0.49 mmol) in DCM (2 mL) was added DIPEA (0.17 mL, 0.98 mmol) and Ac2O (0.05 g, 0.49 mmol), 15 min later, it was diluted with water and extracted with DCM. Organic layers were combined, dried and concentrated, the resulting crude oil was purified by column (EtOAc followed by DCM/MeOH=9:1) to give 1-(5-(hydroxymethyl)-4-phenyl-3,6-dihydropyridin-1(2H)-yl)ethan-1-one (88 mg).

reactant | (4-phenyl-1,2,5,6-tetrahydropyridin-3-yl)methanol hydrochloride | 0.49 mmol, 110 mg | Cl.C1(=CC=CC=C1)C1=C(CNCC1)CO
reactant | DIPEA | 0.98 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Ac2O | 0.49 mmol, 0.05 g | CC(=O)OC(=O)C | C4H6O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(5-(hydroxymethyl)-4-phenyl-3,6-dihydropyridin-1(2H)-yl)ethan-1-one | 88 mg | OCC1=C(CCN(C1)C(C)=O)C1=CC=CC=C1 | C14H17NO2
